US03976635
To a mixture comprising glycolic acid (0.76 g), triethylamine (2.8 ml) and dry tetrahydrofuran (3 ml), ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate (4.2 g) is added at room temperature while stirring. The resulting mixture is stirred for 3 hours and then concentrated under reduced pressure. The residue is dissolved in ether, and the obtained ether solution is washed with water, dried and concentrated to give ethyl ethoxycarbonyloxyacetate (1.8 g) as a brown oil.

reactant | glycolic acid | 0.76 g | C(CO)(=O)O | C2H4O3
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate | 4.2 g | C(C)OC(=O)ON=C(C(=O)OCC)C#N | C8H10N2O5
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | ethyl ethoxycarbonyloxyacetate | 1.8 g | C(C)OC(=O)OCC(=O)OCC | C7H12O5
